USRE033533
(a) p-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphth[2,3-d]oxazolyl) benzoic acid chloride
p-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphth[2,3-d]oxazolyl) benzoic acid (4.57 g - 13.1 mmoles) is suspended in dichloromethane (200 ml). There is then slowly added dicyclohexylamine (2.37 g - 13.1 mmoles) and the dichloromethane is then evaporated.

reactant | p-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphth[2,3-d]oxazolyl) benzoic acid | CC1(CCC(C2=CC3=C(N=C(O3)C3=CC=C(C(=O)O)C=C3)C=C12)(C)C)C | C22H23NO3
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | p-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphth[2,3-d]oxazolyl) benzoic acid chloride | CC1(CCC(C2=CC3=C(N=C(O3)C3=CC=C(C(=O)Cl)C=C3)C=C12)(C)C)C | C22H22ClNO2
